US04845293
Preparation of 4-chloro-2-(β-hydroxypropyl)amino-6-(β-hydroxypropyl)aminonitrobenzene
0.2 mole (45.3 g) of 2,4,6-trichloronitrobenzene is added in small portions to 180 ml of 3-amino-2-propanol heated to 80° C., with stirring. The reaction is exothermic. After heating for 3 hours 30 minutes, the reaction mixture is poured into 180 ml of ice-cold water. The product expected precipitates. It is drained, washed to neutrality with water and then dried under vacuum in the presence of phosphorous pentoxide. After recrystallization from 96° ethanol, it melts at 170° C.

reactant | 2,4,6-trichloronitrobenzene | 0.2 mole, 45.3 g | ClC1=C(C(=CC(=C1)Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | 3-amino-2-propanol | 180 ml | NCC(C)O | C3H9NO
product | 4-chloro-2-(β-hydroxypropyl)amino-6-(β-hydroxypropyl)aminonitrobenzene | ClC1=CC(=C(C(=C1)NCC(C)O)[N+](=O)[O-])NCC(C)O | C12H18ClN3O4
